### PR TITLE
[Merged by Bors] - chore: more `squeeze_simp`s arising from linter

### PR DESCRIPTION
**Pull request by adomani**
The squeezing continues!  All found by the linter at #11246.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by urkud** [comment]
Thanks! :tada:
bors merge

File: Mathlib/Algebra/Group/Conj.lean [hunk 1]
```diff
@@ -114,7 +114,7 @@ theorem conj_zpow {i : ℤ} {a b : α} : (a * b * a⁻¹) ^ i = a * b ^ i * a⁻
   induction' i
   · change (a * b * a⁻¹) ^ (_ : ℤ) = a * b ^ (_ : ℤ) * a⁻¹
     simp [zpow_coe_nat]
-  · simp [zpow_negSucc, conj_pow]
+  · simp only [zpow_negSucc, conj_pow, mul_inv_rev, inv_inv]
     rw [mul_assoc]
```
Comment (YaelDillies) [inline Mathlib/Algebra/Group/Conj.lean:118]: Make the proof more robust by not squeezing the simp:
```suggestion
  · simp [zpow_negSucc, conj_pow, mul_assoc]
```

File: Mathlib/Data/List/Permutation.lean [hunk 2]
```diff
@@ -175,7 +178,7 @@ theorem foldr_permutationsAux2 (t : α) (ts : List α) (r L : List (List α)) :
       (L.bind fun y => (permutationsAux2 t ts [] y id).2) ++ r := by
   induction' L with l L ih
   · rfl
-  · simp [ih]
+  · simp only [foldr_cons, ih, cons_bind, append_assoc]
     rw [← permutationsAux2_append]
```
Comment (YaelDillies) [inline Mathlib/Data/List/Permutation.lean:182]:
```suggestion
  · simp [ih, ← permutationsAux2_append]
```

File: Mathlib/Data/Seq/Computation.lean [hunk 3]
```diff
@@ -310,8 +310,7 @@ theorem eq_of_bisim (bisim : IsBisimulation R) {s₁ s₂} (r : s₁ ~ s₂) : s
         exact False.elim h
       · rw [destruct_pure, destruct_think] at h
         exact False.elim h
-      · simp at h
-        simp [*]
```
Comment (YaelDillies) [inline Mathlib/Data/Seq/Computation.lean:314]: Sure that's a golf, but please reassure me that your linter does not flag this as a non-terminal simp!

File: Mathlib/Data/Seq/WSeq.lean [hunk 4]
```diff
@@ -1157,7 +1159,7 @@ theorem liftRel_flatten {R : α → β → Prop} {c1 : Computation (WSeq α)} {c
     match s, t, h with
     | _, _, ⟨c1, c2, rfl, rfl, h⟩ => by
       -- Porting note: `exists_and_left` should be excluded.
```
Comment (YaelDillies) [inline Mathlib/Data/Seq/WSeq.lean:1161]:
```suggestion
```

File: Mathlib/Data/Seq/WSeq.lean [hunk 5]
```diff
@@ -1329,7 +1331,12 @@ theorem toList'_map (l : List α) (s : WSeq α) :
 
 @[simp]
 theorem toList_cons (a : α) (s) : toList (cons a s) = (List.cons a <$> toList s).think :=
-  destruct_eq_think <| by unfold toList; simp; rw [toList'_map]; simp; rfl
+  destruct_eq_think <| by
+    unfold toList
+    simp only [toList'_cons, Computation.destruct_think, Sum.inr.injEq]
+    rw [toList'_map]
+    simp only [List.reverse_cons, List.reverse_nil, List.nil_append, List.singleton_append]
+    rfl
```
Comment (YaelDillies) [inline Mathlib/Data/Seq/WSeq.lean:1339]: This looks like a symptom of the simp bug that was fixed by letting simp not resynthesize everything anymore. Hence I'm pretty sure something like this will work:
```suggestion
  destruct_eq_think <| by unfold toList; simp [toList'_map]; rfl
```

File: Mathlib/Data/Seq/WSeq.lean [hunk 6]
```diff
@@ -1356,12 +1363,15 @@ theorem destruct_ofSeq (s : Seq α) :
 
 @[simp]
 theorem head_ofSeq (s : Seq α) : head (ofSeq s) = Computation.pure s.head := by
-  simp [head]; cases Seq.head s <;> rfl
+  simp only [head, Option.map_eq_map, destruct_ofSeq, Computation.map_pure, Option.map_map]
+  cases Seq.head s <;> rfl
```
Comment (YaelDillies) [inline Mathlib/Data/Seq/WSeq.lean:1367]: I'm honestly not sure this kind of changes is an improvement

File: Mathlib/Tactic/NormNum/OfScientific.lean [hunk 7]
```diff
@@ -36,7 +36,10 @@ theorem isNat_ofScientific_of_false [DivisionRing α] (σα : OfScientific α) :
     @OfScientific.ofScientific α σα = (fun m s e ↦ (Rat.ofScientific m s e : α)) →
     IsNat m nm → IsNat e ne → n = Nat.mul nm ((10 : ℕ) ^ ne) →
     IsNat (@OfScientific.ofScientific α σα m false e : α) n
-  | _, _, _, _, _, σh, ⟨rfl⟩, ⟨rfl⟩, h => ⟨by simp [σh, Rat.ofScientific_false_def, h]; norm_cast⟩
+  | _, _, _, _, _, σh, ⟨rfl⟩, ⟨rfl⟩, h => ⟨by
+    simp only [Nat.cast_id, σh, Rat.ofScientific_false_def, Nat.cast_mul, Nat.cast_pow,
+      Nat.cast_ofNat, h, Nat.mul_eq]
+    norm_cast⟩
```
Comment (YaelDillies) [inline Mathlib/Tactic/NormNum/OfScientific.lean:42]: This is a false positive. `norm_cast` is a simp-like tactic, hence the simp is not terminal. Please revert.

**Review by YaelDillies — COMMENTED** [review]
Would you mind opening a PR addressing my comments?

File: Mathlib/Data/List/Permutation.lean (hunk 2 above)
Comment (adomani) [reply Mathlib/Data/List/Permutation.lean:182]: This says
```lean
tactic 'simp' failed, nested error:
maximum recursion depth has been reached (use `set_option maxRecDepth <num>` to increase limit)
```

File: Mathlib/Data/Seq/Computation.lean (hunk 3 above)
Comment (adomani) [reply Mathlib/Data/Seq/Computation.lean:314]: I am still working on the internal mechanics of the linter.  The first `simp` was indeed flagged, but a newer version of the linter will hopefully be aware of the tactic immediately following a `simp` and will use this information to decide whether a `simp` is considered terminal or not.  So,
* I will not revert this change, 
* I agree with you that this should not have been flagged,
* I do think that the current version is more robust than what it was before, though!

:smile:

File: Mathlib/Data/Seq/WSeq.lean (hunk 4 above)
Comment (adomani) [reply Mathlib/Data/Seq/WSeq.lean:1161]: Removed the note.

File: Mathlib/Data/Seq/WSeq.lean (hunk 5 above)
Comment (adomani) [reply Mathlib/Data/Seq/WSeq.lean:1339]: Literally what you suggest gives
```lean
type mismatch
  HEq.rfl
has type
  HEq ?m.129498 ?m.129498 : Prop
but is expected to have type
  Computation.destruct (toList (cons a s)) = Sum.inr (List.cons a <$> toList s) : Prop
```

I could not find a better proof...

File: Mathlib/Data/Seq/WSeq.lean (hunk 6 above)
Comment (adomani) [reply Mathlib/Data/Seq/WSeq.lean:1367]: I reverted this change.

File: Mathlib/Algebra/Group/Conj.lean (hunk 1 above)
Comment (adomani) [reply Mathlib/Algebra/Group/Conj.lean:118]: Done.

**Review by adomani — COMMENTED** [review]
@YaelDillies I addressed the comments that I could in #11455.
